US07291616B2
To a suspension of 5-chloro-2-methylbenzoic acid (10 g, 58.6 mmol) dichloromethane (100 ml), cooled in an ice bath, was added a solution of oxalyl chloride in dichloromethane (2 M, 33 ml, 66 mmol) followed by N,N-dimethylformamide (5 drops). After stirring for 2 hours, dimethylamine hydrochloride (9.5 g, 116 mmol) was added followed by a solution of trimethylamine (25 ml, 180 mmol) in dichloromethane (100 ml) slowly. After stirring for 3 hours, the mixture was concentrated under reduced pressure and partitioned between ethyl acetate (200 ml) and hydrochloric acid (1 M, 200 ml). The organic layer was concentrated under reduced pressure to afford 2-chloro-5, N,N,-trimethyl benzamide (11.6 g, 100% yield).

reactant | 5-chloro-2-methylbenzoic acid | 58.6 mmol, 100 ml, 10 g | ClC=1C=CC(=C(C(=O)O)C1)C | C8H7ClO2
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylamine hydrochloride | 116 mmol, 9.5 g | Cl.CNC
reactant | trimethylamine | 180 mmol, 25 ml | CN(C)C | C3H9N
catalyst | N,N-dimethylformamide | 5 drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 66 mmol, 2 M, 33 ml | ClCCl | CH2Cl2
product | 2-chloro-5, N,N,-trimethyl benzamide | 11.6 g, 100% yield | ClC1=C(C(=O)N(C)C)C=C(C=C1)C | C10H12ClNO
